US09079919B2
(2RS,4R)-6′,6′-difluoro-2-phenyl-6-(pyrimidin-5-yl)-6′,7′-dihydro-2′H-spiro[chroman-4,5′-[1,4]oxazepin]-3′-amine
The cross coupling reaction of (2RS,4R)-6-bromo-6′,6′-difluoro-2-phenyl-6′,7′-dihydro-2′H-spiro[chroman-4,5′-[1,4]oxazepin]-3′-amine (intermediate C3.4) with pyrimidin-5-ylboronic acid yielded the title compound (12% yield). MS (ISP): m/z=423.0 [M+H]+.

reactant | (2RS,4R)-6-bromo-6′,6′-difluoro-2-phenyl-6′,7′-dihydro-2′H-spiro[chroman-4,5′-[1,4]oxazepin]-3′-amine | BrC=1C=C2C(=CC1)OC(C[C@@]21N=C(COCC1(F)F)N)C1=CC=CC=C1 | C19H17BrF2N2O2
reactant | pyrimidin-5-ylboronic acid | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
product | (2RS,4R)-6′,6′-difluoro-2-phenyl-6-(pyrimidin-5-yl)-6′,7′-dihydro-2′H-spiro[chroman-4,5′-[1,4]oxazepin]-3′-amine | 12% yield | FC1([C@@]2(N=C(COC1)N)CC(OC1=CC=C(C=C12)C=1C=NC=NC1)C1=CC=CC=C1)F | C23H20F2N4O2
